US07767675B2
Step 4. 2-fluoro-4-[7-(quinoxalin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzonitrile
A mixture of 6-[2-(4-bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylquinoxaline (120 mg, 0.28 mmol), tris(dibenzylideneacetone)dipalladium (8.8 mg, 0.0096 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (11 mg, 0.019 mmol), zinc cyanide (20.1 mg, 0.171 mmol), and N,N,N′,N′-tetramethylethylenediamine (49.9 μL, 0.331 mmol) in N,N-dimethylformamide (0.2 mL) was irradiated under microwave at 160° C. for 10 min. After cooling to RT, the mixture was concentrated and the residue was purified by chromatography on silica gel with MeOH in methylene chloride (0-5%) to afford the desired product (65 mg, 62%). LCMS: (M+H)=382.0.

reactant | 6-[2-(4-bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylquinoxaline | 0.28 mmol, 120 mg | BrC1=C(C=C(C=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1N=CC=NC1=CC2)F | C20H12BrFN6
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.019 mmol, 11 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.331 mmol, 49.9 μL | CN(CCN(C)C)C | C6H16N2
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0096 mmol, 8.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 0.171 mmol, 20.1 mg | [C-]#N.[Zn+2].[C-]#N
product | 2-fluoro-4-[7-(quinoxalin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzonitrile | 65 mg, 62% | FC1=C(C#N)C=CC(=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1N=CC=NC1=CC2 | C21H12FN7
